* FILE: MMI_RPTRF.sp


* SPICE netlist for "MMI_RPTRF" (generated by MMI_SUE4.2.1)

*.SUBCKT MMI_RPTRF in out 
M_0 out in vdd vdd p W='29.44*1u' L=lp_min ad='areap(29.44,sdd)' 
+ as='areap(29.44,sdd)' pd='perip(29.44,sdd)' ps='perip(29.44,sdd)'
M_1_1 out in gnd gnd n W='14.72*1u' L=ln_min ad='arean(14.72,sdd)' 
+ as='arean(14.72,sdd)' pd='perin(14.72,sdd)' ps='perin(14.72,sdd)'
*.ENDS	$ MMI_RPTRF

